US05254543
4-(Bromomethyl)benzene-sulphochloride
38.1 g (0.2 mol) of 4-methylbenzenesulphonyl chloride are dissolved in 300 ml of carbon tetrachloride and treated with 35.6 g (0.2 mol) of N-bromosuccinimide and, after addition of 0.2 g (1.2 mmol) of azobisisobutyronitrile (ABU), the mixture is heated under reflux for 4 h. After cooling, the solids are filtered off and the filtrate is freed from the solvent. Flash chromatography (petroleum ether/toluene 4:1, 50 μm particle size) and subsequent recrystallisation from 100 ml of cyclohexane gives 24.0 g (45% of theory) of the title compound. Rf =0.75 (toluene)

reactant | 4-methylbenzenesulphonyl chloride | 0.2 mol, 38.1 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | N-bromosuccinimide | 0.2 mol, 35.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 1.2 mmol, 0.2 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 300 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(Bromomethyl)benzene sulphochloride | BrCC1=CC=CC=C1.S(=O)(=O)(O)Cl | InChI=1S/C7H7Br.ClHO3S/c8-6-7-4-2-1-3-5-7;1-5(2,3)4/h1-5H,6H2;(H,2,3,4)
